US08283354B2
To a solution of tert-butyl(R)-1-(2-(2-fluoro-6-hydroxyphenyl)-7-methylquinazolin-4-yl)pyrrolidin-3-ylcarbamate (500 mg, 1.14 mmol) in CH2Cl2 (15 mL) was added TFA (5 mL). The mixture was stirred for 1 h and then neutralized with a 1 M NaOH solution, and the aqueous layer was extracted twice with CH2Cl2. The combined organic layers were dried over MgSO4, filtered, and concentrated. Purification via silica gel chromatography using 3-20% EtOAc/CH2Cl2 gave 2-(4-((R)-3-aminopyrrolidin-1-yl)-7-methylquinazolin-2-yl)-3-fluorophenol. LC/MS: m/z 339.5 (M+H)+ at 0.56 min (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)).

reactant | tert-butyl(R)-1-(2-(2-fluoro-6-hydroxyphenyl)-7-methylquinazolin-4-yl)pyrrolidin-3-ylcarbamate | 1.14 mmol, 500 mg | FC1=C(C(=CC=C1)O)C1=NC2=CC(=CC=C2C(=N1)N1C[C@@H](CC1)NC(OC(C)(C)C)=O)C | C24H27FN4O3
reactant | TFA | 5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | NaOH | 1 M | [OH-].[Na+]
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-((R)-3-aminopyrrolidin-1-yl)-7-methylquinazolin-2-yl)-3-fluorophenol | N[C@H]1CN(CC1)C1=NC(=NC2=CC(=CC=C12)C)C1=C(C=CC=C1F)O | C19H19FN4O
